Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
contractions
 
Major Surgical or Invasive Procedure:
classical c/s

 
History of Present Illness:
Ms. ___ is a ___ G6P2 at 30+6 wth history of a short cervix 
who presents to OB triage for rule out labor. Patient was 
recently admitted into the AP service and discharged 2 days ago. 
Last CL at ___ was 3mm. Patient presents today because she has 
been having increasingly painful ctxs since last night. She 
denies any vaginal bleeding, leakage of fluid. She denies any 
recent intercourse. She was made BMZc during her last 
hospitalization on ___.
 
Past Medical History:
PNC:
*) DAting ___ ___ by LMP
*) Labs: A pos/Ab neg
*) FFS views of spine suboptimal and single echogenic foci
otherwise unremarkable.placenta posterior no previa, CL 29mm
w/mild funneling.sm anterior uterine fibroid. 
*) first trimester screening: T-21 1:9, T-13&18: 1:255,declines
amnio, free cell DNA <1:10,000.
*) issues:
- Recent AP admission 
- GTT 111/199/95 (ABNORMAL) -> GDMA2 EFW ___ (40%)
- HX of neonatal death at 2 months
- HSV 
- Sickle cell trait, FOB neg per OMR
- Short Cervix, on vaginal progesterone

OBHx: 
- ___ rpt cs at 37w6d
- ___ rpt cs at 38w, died at 2 mo age related to ___
- ___ primary cs for NRFHT at 38w
- TAB x2

GYNHx:
- HSV

PMHx:
- sickle cell trait
- ganglion cyst

PSHx: 
- CS x3
 
Social History:
Denies T/E/D
Currently staying with mother, feels safe at home
 
Physical Exam:
(on admission)
Vitals: 98.3 121/77 89, ___: 98
GEN: No acute distress
SVE: FFN collected. Cvx cl/soft/posterior at (0645), BV/Yeast 
cultures obtained
FHT: 140/mod var/+accels/no decels
Toco: q10 mins with baseline irritability
 
Pertinent Results:
___ 06:39AM OTHER BODY FLUID  FETALFN-POSITIVE
___ 07:54AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 LEUK-TR
___ 07:54AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 10:17AM   PLT COUNT-250
___ 10:17AM   WBC-10.6 RBC-4.19* HGB-11.4* HCT-33.1* 
MCV-79* MCH-27.2 MCHC-34.4 RDW-17.3*
 
Brief Hospital Course:
___ y/o G6P2 with hx short cervix admitted at 30w6d with preterm 
contractions. She was contracting every ten minutes on arrival. 
Although the fetal fibronectin was positive, her cervix remained 
closed. Given she was already betamethasone complete, she was 
not tocolyzed. Fetal testing was reassuring. She was given a 
course of rescue steroids for fetal lung maturity (complete 
___. Her contractions improved and her repeat cervical exam was 
unchanged. On hospital day #2, she spontaneously ruptured her 
membranes and was treated with Amp/Erythro for latency. She 
underwent continuous fetal monitoring on labor and delivery 
given intermittent deep variable decelerations. Her tracing 
continued to be concerning with decreased variability with deep 
variables and the decision was made to proceed with delivery. 
She underwent a repeat LTCS at 31w1d (on ___

She had an uncomplicated postpartum course and was discharged 
home in good condition
 
Medications on Admission:
NPH 12 QHS, Humalog 4u with dinner
vaginal progesterone
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium [Colace] 100 mg one capsule(s) by mouth TD 
Disp #*60 Capsule Refills:*0
2. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg one tablet(s) by mouth every 6 hours Disp 
#*50 Tablet Refills:*0
3. Oxycodone-Acetaminophen (5mg-325mg) ___ TAB PO Q4H:PRN Pain 
RX *oxycodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every 6 hours Disp #*50 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
s/p classical c/s
viable female

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
follow routine post-partum/post-operative orders
 
Followup Instructions:
___